US04801598
2,5,6-Trimethylbenzimidazol-1-ylethanol
A solution of ethyl 2-(2,5,6-trimethylbenzimidazol-1-yl)acetate (6.15 g) in dry tetrahydrofuran (20 ml) was added to a suspension of lithium aluminium hydride (0.95 g) was dry tetrahydrofuran (60 ml) at 0° C. The reaction was allowed to warm to room temperature and stirred at room temperature for 1 hour. Water (1 ml) was added dropwise to the reaction followed by 15% sodium hydroxide (3 ml) and water (3 ml). The suspension was filtered and the solvent removed under reduced pressure. The product was dissolved in dichloromethane, dried over magnesium sulphate and the solvent removed under reduced pressure. The residue was triturated with acetone, the solid filtered and dried under reduced pressure to yield the title compound (1.9 g, 37%), m.p. 191°-2° C. Found: C, 70.17; H, 8.07; N, 13.56. C12H16N2O requires: C, 70.59; H, 7.84; N, 13.72%.

reactant | ethyl 2-(2,5,6-trimethylbenzimidazol-1-yl)acetate | 6.15 g | CC1=NC2=C(N1CC(=O)OCC)C=C(C(=C2)C)C | C14H18N2O2
reactant | lithium aluminium hydride | 0.95 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 1 ml | O | H2O
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2,5,6-Trimethylbenzimidazol-1-ylethanol | 1.9 g, 37% | CC1=NC2=C(N1C(C)O)C=C(C(=C2)C)C | C12H16N2O
